US05409928
(3) Preparation of methyl 4-(α-methylbenzyl)benzoate
In the same manner as in Reference Example 25, by using methyl 4-(α-bromoethyl)benzoate and benzene, there was prepared the title compound.

reactant | methyl 4-(α-bromoethyl)benzoate | BrC(C)C1=CC=C(C(=O)OC)C=C1 | C10H11BrO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | methyl 4-(α-methylbenzyl)benzoate | CC(C1=CC=CC=C1)C1=CC=C(C(=O)OC)C=C1 | C16H16O2
